US08222417B2
To a solution of tert-butyl 3,4-dihydroquinoxaline-1(2H)-carboxylate obtained in Reference Example 28 (1.06 g) in tetrahydrofuran (20 ml), sodium hydride (60% suspension in oil, 181 mg) was added and stirred for 5 minutes, followed by addition of methyl iodide (281 μl). After stirring at room temperature for 1 hour, sodium hydride (60% suspension in oil, 181 mg) was further added and stirred for 30 minutes, followed by addition of methyl iodide (281 μl). After stirring overnight at room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed sequentially with water and brine, and then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=10:1 to 5:1) to give tert-butyl 4-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (331 mg) as a brown powder. To a solution of tert-butyl 4-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate thus obtained (331 mg) in ethyl acetate (2 ml), 4N hydrochloric acid (in ethyl acetate, 1.1 ml) was added and stirred overnight at room temperature. The reaction mixture was diluted with 8M aqueous sodium hydroxide and then extracted with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure to give the titled compound, i.e., 1-methyl-1,2,3,4-tetrahydroquinoxaline (179 mg) as a brown oil.

reactant | tert-butyl 3,4-dihydroquinoxaline-1(2H)-carboxylate | N1(CCNC2=CC=CC=C12)C(=O)OC(C)(C)C | C13H18N2O2
reactant | sodium hydride | 181 mg | [H-].[Na+]
reactant | methyl iodide | 281 μl | CI | CH3I
reactant | sodium hydride | 181 mg | [H-].[Na+]
reactant | methyl iodide | 281 μl | CI | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 4-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 331 mg | CN1CCN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C14H20N2O2
